US09102591B2
2,3-dichloro-N((4,4-difluoro-1-(6-methylpyridin-3-yl)cyclohexyl)methyl)benzamide
From 2,3-dichlorobenzoic acid and (4,4-difluoro-1-(6-methylpyridin-3-yl)cyclohexyl)methanamine. LCMS (MH+): m/z=413.2, tR (minutes, Method D)=0.51

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | (4,4-difluoro-1-(6-methylpyridin-3-yl)cyclohexyl)methanamine | FC1(CCC(CC1)(C=1C=NC(=CC1)C)CN)F | C13H18F2N2
product | 2,3-dichloro-N((4,4-difluoro-1-(6-methylpyridin-3-yl)cyclohexyl)methyl)benzamide | ClC1=C(C(=O)NCC2(CCC(CC2)(F)F)C=2C=NC(=CC2)C)C=CC=C1Cl | C20H20Cl2F2N2O
